US07153925B2
4-Methylbenzenesulfonyl chloride (3.80 g, 0.02 mol) and N-methyl-4-methylbenzene sulfonamide (3.70 g, 0.02 mol) were added to 1,2-dichlorobenzene (50 ml) and the solution refluxed for 48 hrs. The solvent was evaporated in vacuo and the residue recrystallized from hexane-acetone to give N*-methyl-N*-4-methylphenysulfonyl-4-methylbenzene sulfonamide mp 109–111° C. MS m/z 339. (M+ calcd for C15H17NO4S=339). H NMR (300 Mhz, CDCl3) d 2.43 (s, 6, CH3), 3.25 (s, 3, NCH3), 7.34 (m, 4, aromatic), 7.88 (m, 4, aromatic).

reactant | 4-Methylbenzenesulfonyl chloride | 0.02 mol, 3.80 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | N-methyl-4-methylbenzene sulfonamide | 0.02 mol, 3.70 g | CNS(=O)(=O)C1=CC=C(C=C1)C | C8H11NO2S
reactant | 1,2-dichlorobenzene | 50 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 4-methylphenysulfonyl-4-methylbenzene sulfonamide | CC1(CC(=C(C=C1)S(=O)(=O)N)S(=O)(=O)C1=CC=CC=C1)C | C14H17NO4S2
